US07326791B2
3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)butyl]4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-chloro-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)butylamine in tetrahydrofuran. Yield: quantitative; Rf value: 0.49 (silica gel: dichloromethane/ethanol=9:1); C23H22Cl2N4O2 (457.359); mass spectrum: (M+H)+=457/459/461 (chlorine isotope).

reactant | 3-chloro-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid | ClC=1C=C(C(=O)O)C=CC1C(=O)N1CC=CC1 | C12H10ClNO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)butylamine | ClC1=CC2=C(NC(=N2)[C@H](CCC)N)C=C1 | C11H14ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)butyl]4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide | Yield: quantitative | ClC=1C=C(C(=O)N[C@@H](CCC)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CC=CC1 | C23H22Cl2N4O2
